US05116402
Preparation of α-chloralose
A mixture of 4.5 g of glucose, 19 g of chloral, 20 ml of chloroform and 0.05 g of 4-methyl-benzene-sulphonic acid is kept at reflux temperature for 7 hours and the formed water is separated by means of a Dean-Stark apparatus. The solvent is distilled off and the residue is kept at 60° C. for 20 minutes. The sedimented material is filtrated and the pH value of the mother lye adjusted to 6.5 with sodium hydroxide. The separated precipitate is filtered.

reactant | glucose | 4.5 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | chloral | 19 g | O=CC(Cl)(Cl)Cl | C2HCl3O
reactant | 4-methyl-benzene-sulphonic acid | 0.05 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | α-chloralose | C([C@H]([C@@H]1[C@@H]([C@@H]2[C@H](O1)O[C@@H](O2)C(Cl)(Cl)Cl)O)O)O | C8H11Cl3O6
